US05223639
To 15 ml of dimethylformamide was dissolved 2.06 g (0.015 mol) of anthranilic acid. To 10 ml of dimethylformamide were added in order 0.78 ml of thionyl chloride and 2.08 g (0.01 mol) of 3',4'-dimethoxycinnamic acid, during which the reaction system was stirred and cooled with ice and water. The resulting mixture was added dropwise to the above solution, with stirring at room temperature. After the completion of the dropping, the reaction mixture was stirred for additional 1.5 hours, and then treated in the same manner as in Example 1. There was obtained 1.26 g (yield: 38.5%) of N-(3',4'-dimethoxycinnamoyl)-anthranilic acid.

reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | anthranilic acid | 0.015 mol, 2.06 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 0.78 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3',4'-dimethoxycinnamic acid | 0.01 mol, 2.08 g | COC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C11H12O4
solvent | water | O | H2O
product | N-(3',4'-dimethoxycinnamoyl)-anthranilic acid | 1.26 g, yield: 38.5% | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1OC | C18H17NO5
